US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-furan-3-yl)-nicotinamide
As described for example 5d, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (150 mg, 0.49 mmol) was converted, using tetrahydrofuran-3-amine instead of isopropylamine, to the title compound (120 mg, 68%) which was obtained as a white solid after purification by chromatography (silica, 0 to 5% methanol in dichloromethane). MS: m/e=360.4 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.49 mmol, 150 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | tetrahydrofuran-3-amine | O1CC(CC1)N | C4H9NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-furan-3-yl)-nicotinamide | 120 mg, 68% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2COCC2)C=C1)C | C19H25N3O4
